US07981896B2
2-[4-(1-Cyclopentylpiperidin-4-yloxy)phenyl]-5-methyl-2H-pyrazole-3-carboxylic acid cyclohexylamide.
To a solution of 5-methyl-2-[4-(piperidin-4-yloxy)phenyl]-2H-pyrazole-3-carboxylic acid cyclohexylamide (60 mg, 0.157 mmol) in methylene chloride (9 mL) was added cyclopentanone (21 μL, 0.24 mmol) and acetic acid (150 μL). After 1 hour at room temperature, sodium triacetoxyborohydride (51 mg, 0.24 mmol) was added and the reaction was allowed to stir for an additional 4 hours. The reaction was quenched with 10% NaOH and extracted with methylene chloride. The methylene chloride solution was dried (MgSO4) and concentrated. The residue was purified by semi-prep LC-MS to give 2.4 mg of the desired product. LC-MS (C27H38N4O2 calculated 450) m/z 451 (M+H); 1H NMR (300 MHz, CDCl3) δ 7.34-7.31 (m, 2H), 7.01-6.98 (m, 2H), 6.78 (d, J=8.4 Hz, 1H), 6.70 (s, 1H), 4.42 (m, 1H), 3.95-3.93 (m, 1H), 2.87-2.83 (m, 2H), 2.68-2.54 (m, 3H), 2.23 (s, 3H), 2.15-1.14 (m, 22H).

reactant | 5-methyl-2-[4-(piperidin-4-yloxy)phenyl]-2H-pyrazole-3-carboxylic acid cyclohexylamide | 0.157 mmol, 60 mg | C1(CCCCC1)NC(=O)C=1N(N=C(C1)C)C1=CC=C(C=C1)OC1CCNCC1 | C22H30N4O2
reactant | cyclopentanone | 0.24 mmol, 21 μL | C1(CCCC1)=O | C5H8O
reactant | acetic acid | 150 μL | C(C)(=O)O | C2H4O2
reactant | sodium triacetoxyborohydride | 0.24 mmol, 51 mg | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
solvent | methylene chloride | 9 mL | C(Cl)Cl | CH2Cl2
product | 2-[4-(1-Cyclopentylpiperidin-4-yloxy)phenyl]-5-methyl-2H-pyrazole-3-carboxylic acid cyclohexylamide | 2.4 mg | C1(CCCCC1)NC(=O)C=1N(N=C(C1)C)C1=CC=C(C=C1)OC1CCN(CC1)C1CCCC1 | C27H38N4O2
